US09388196B2
Step 1: 1-(4-bromothiazol-2-yl)piperidin-2-one
2,4-dibromothiazole (2.0 g, 8.23 mmol) and piperidine-2-one (0.816 g. 8.23 mmol) were added to seal tube containing 1,4 dioxane (15 ml). Cesium carbonate (4.02 g, 12.35 mmol) and xantphos (027 g, 0.412 mmol) were added, the nitrogen gas was bubbled through reaction mixture for 15 minutes and tris(dibenzylideneacetone)dipalladium(0) (0.151 g, 0.165 mmol) was added under nitrogen and the tube was sealed. The reaction mixture was heated at 120° C. for 3 hr under stirring. The progress of reaction was monitored by TLC. The reaction mixture was cooled to 25° C. and diluted with water (50 ml) and extracted with ethyl acetate (3×100 ml). The combined organic extract was dried over sodium sulfate filtered and concentrated under reduced pressure to obtain a crude product; which was purified by flash column chromatography using 15% ethyl acetate in hexanes as an eluent to obtain the title compound (1.2 g, 55.8%). MS: m/z 262 (M+1).

reactant | 2,4-dibromothiazole | 8.23 mmol, 2.0 g | BrC=1SC=C(N1)Br | C3HBr2NS
reactant | piperidine-2-one | 8.23 mmol, 0.816 g | N1C(CCCC1)=O | C5H9NO
reactant | 1,4 dioxane | 15 ml | O1CCOCC1 | C4H8O2
reactant | Cesium carbonate | 12.35 mmol, 4.02 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | water | 50 ml | O | H2O
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.165 mmol, 0.151 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | xantphos | 0.412 mmol | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
product | 1-(4-bromothiazol-2-yl)piperidin-2-one | 1.2 g, 55.8% | BrC=1N=C(SC1)N1C(CCCC1)=O | C8H9BrN2OS
